US08039460B2
Step G: Benzyl 3-methyl-2-oxo-2,2′,3,3′-tetrahydro-1H,1′H-spiro[1,8-naphthyridine-4,4′-pyridine]-1′-carboxylate
Trifluoroacetic acid (4 mL, 53.8 mmol) was added to a solution of benzyl 3-methyl-2-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-2,2′,3,3′-tetrahydro-1H,1′H-spiro[1,8-naphthyridine-4,4′-pyridine]-1′-carboxylate (0.10 g, 0.20 mmol) in dichloromethane (2 mL). After 2 h, the reaction mixture was concentrated. The concentrated mixture was diluted in dichloromethane (2 mL) and ethane-1,2-diamine (4 mL) was added. After 1 h, the reaction mixture was concentrated and saturated aqueous sodium bicarbonate was added. The mixture was extracted with dichloromethane (3×). The combined organic extracts were dried over magnesium sulfate, filtered and concentrated. MS 364.1 (M+1).

reactant | Trifluoroacetic acid | 53.8 mmol, 4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | benzyl 3-methyl-2-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-2,2′,3,3′-tetrahydro-1H,1′H-spiro[1,8-naphthyridine-4,4′-pyridine]-1′-carboxylate | 0.20 mmol, 0.10 g | CC1C(N(C2=NC=CC=C2C12CCN(C=C2)C(=O)OCC2=CC=CC=C2)COCC[Si](C)(C)C)=O | C27H35N3O4Si
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | Benzyl 3-methyl-2-oxo-2,2′,3,3′-tetrahydro-1H,1′H-spiro[1,8-naphthyridine-4,4′-pyridine]-1′-carboxylate | CC1C(NC2=NC=CC=C2C12CCN(C=C2)C(=O)OCC2=CC=CC=C2)=O | C21H21N3O3
